US06525055B1
6-(3,5-Dichloro-pyridin-4-ylmethyl)-9-methoxy-tetrazolo[5,1-a]-phthalazine (Compound 3)
NaN3 was added to a solution under N2 of 4-chloro-1-(3,5-dichloro-pyridin4-ylmethyl)-6-methoxy-phthalazine (1 g, 2.82 mmoles), obtained as described in example 13, in anhydrous DMF (20 ml) and the mixture was heated at 80° C. overnight, then at 120° C. for 7 hours, then poured into water (10 volumes) and extracted 3 times with CH2Cl2, dried and concentrated under vacuum to give a solid which was purified by flash chromatography (eluent:60:80 petrolatum/ethyl acetate 6:4). The eluate was crystallised from acetonitrile (75 ml) to give 0.36 g of the title compound (yield: 78.5%). m. p.: 275-276° C.

reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | 4-chloro-1-(3,5-dichloro-pyridin4-ylmethyl)-6-methoxy-phthalazine | 2.82 mmoles, 1 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1=C(C=NC=C1Cl)Cl | C15H10Cl3N3O
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-(3,5-Dichloro-pyridin-4-ylmethyl)-9-methoxy-tetrazolo[5,1-a]-phthalazine | 0.36 g, yield: 78.5% | ClC=1C=NC=C(C1CC1=NN2C(C3=CC(=CC=C13)OC)=NN=N2)Cl | C15H10Cl2N6O
